US06469025B1
(S)-3-[4-(3-Phenyl-1-isoquinolinylamino)phenyl]-2-(2-morpholino-3,4-dioxocyclobut-1-enylamino)propanoic Acid
A solution of methyl (S)-3-[4-(3-phenyl-1-isoquinolinylamino)phenyl]-2-(2-isopropoxy-3,4-dioxocyclobut-1-enylamino)propanoate (20 mg, 0.08 mmol) [prepared in a similar manner to the compound of Example 1]in MeOH (0.2 ml) was treated with morpholine (0.011 ml, 0.12 mmol) and the resulting mixture heated at 60° for 24 h. The mixture was concentrated to dryness then redissolved in anhydrous THF (1.0 ml) and treated with polystyrene methylisocyanate resin (Argonaut Technologies, 120 mg, 2.0 mmol/g, 0.24 mmol) at room temperature for 24 h. The resulting mixture was filtered, and the resin was washed with MeOH(1.0 ml). The combined filtrate was evaporated to dryness then redissolved in THF (0.2 ml) and treated with an aqueous solution of lithium hydroxide monohydrate (0.2 ml of a solution of 100 mg in 4.0 ml water, 0.12 mmol) at room temperature for 24 h. The reaction mixture was quenched with glacial acetic acid (0.007 ml, 0.12 mmol), then evaporated to dryness to give the crude product which was purified by preparative HPLC to afford the title compound.

reactant | methyl (S)-3-[4-(3-phenyl-1-isoquinolinylamino)phenyl]-2-(2-isopropoxy-3,4-dioxocyclobut-1-enylamino)propanoate | 0.08 mmol, 20 mg | C1(=CC=CC=C1)C=1N=C(C2=CC=CC=C2C1)NC1=CC=C(C=C1)C[C@@H](C(=O)OC)NC1=C(C(C1=O)=O)OC(C)C | C32H29N3O5
reactant | morpholine | 0.12 mmol, 0.011 ml | N1CCOCC1 | C4H9NO
reactant | acetic acid | 0.12 mmol, 0.007 ml | C(C)(=O)O | C2H4O2
solvent | MeOH | 0.2 ml | CO | CH4O
product | (S)-3-[4-(3-Phenyl-1-isoquinolinylamino)phenyl]-2-(2-morpholino-3,4-dioxocyclobut-1-enylamino)propanoic Acid | C1(=CC=CC=C1)C=1N=C(C2=CC=CC=C2C1)NC1=CC=C(C=C1)C[C@@H](C(=O)O)NC1=C(C(C1=O)=O)N1CCOCC1 | C32H28N4O5
